US06211242B1
A mixture of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-carboxyphenyl)benzamide (232 mg), diphenylphosphoryl azide (151 mg), and triethylamine (0.084 ml) in benzene (10 ml) was refluxed for 5 hours and 1N hydrochloric acid (4 ml) was added to the solution. The mixture was refluxed for 4 hours and the mixture was washed with aqueous saturated sodium hydrogen carbonate and brine. The organic solution was dried over magnesium sulfate and the solvent was evaporated in vacuo to give crude oil. The oil was purified by silica gel column (10 g, 2% methanol in chloroform) and the product was solidified with diethyl ether to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-aminophenyl)benzamide (120 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-carboxyphenyl)benzamide | 232 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C(=O)O)C)C=C1 | C29H24N2O4
reactant | diphenylphosphoryl azide | 151 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.084 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N, 4 ml | Cl | ClH
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-aminophenyl)benzamide | 120 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)N)C)C=C1 | C28H25N3O2
